US06235742B1
4-tert-butyl carbamoylmethoxyphenyl acetic acid
1N aqueous sodium hydroxide solution (16 ml) was added to a solution of 4-tert-butyl carbamoylmethoxyphenylacetic acid methyl ester (2.8 g, 0.010 mol) in methanol (10 ml) and the reaction stirred at room temperature for 5 hours. The reaction mixture was then concentrated under reduced pressure, the residue suspended in 1N aqueous hydrochloric acid (20 ml) and extracted with diethyl ether (2×25 ml). The combined organic extracts were dried (MgSO4), filtered and evaporated under reduced pressure.

reactant | sodium hydroxide | 1N, 16 ml | [OH-].[Na+]
reactant | 4-tert-butyl carbamoylmethoxyphenylacetic acid methyl ester | 0.010 mol, 2.8 g | COC(C(C1=CC=C(C=C1)C(C)(C)C)OCC(N)=O)=O | C15H21NO4
solvent | methanol | 10 ml | CO | CH4O
product | 4-tert-butyl carbamoylmethoxyphenyl acetic acid | C(C)(C)(C)C1=CC=C(C=C1)C(C(=O)O)OCC(N)=O | C14H19NO4
